US08183264B2
2-Amino-nicotinamide
2-Aminonicotinic acid (5.0 g), WSC (10 g), HOBt (7.3 g), ammonium chloride (5.8 g), diisopropylethylamine (28 g), and DMSO (100 mL) were stirred for 16 hours at room temperature. Water was added and then extraction was performed with ethyl acetate and THF. The organic layer was concentrated and purified by silica gel chromatography (ethyl acetate) to obtain the titled compound (2.6 g).

reactant | 2-Aminonicotinic acid | 5.0 g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | WSC | 10 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 7.3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonium chloride | 5.8 g | [Cl-].[NH4+]
reactant | diisopropylethylamine | 28 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | Water | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 2-Amino-nicotinamide | 2.6 g | NC1=C(C(=O)N)C=CC=N1 | C6H7N3O
